US04655819
n-Propyl 2-[2-fluoro-4-(6-fluoroquinoxalin-2-yloxy)-phenoxy]propionate (15)
A mixture of 2-chloro-6-fluoroquinoxaline (1.0 g; 5.48 mmole), n-propyl 2-(2-fluoro-4-hydroxyphenoxy)propionate (1.33 g; 5.49 mmole), anhydrous potassium carbonate (0.8 g) and anhydrous dimethylformamide (40 ml) was stirred and heated at a temperature of 120° C. for a period of 3.5 hours. The solvent was evaporated from the reaction mixture under vacuum, the residue was treated with water and the mixture was extracted with diethyl ether. The etherial extract was washed with water, dried over anhydrous magnesium sulfate, filtered, and the solvent was evaporated under vacuum to give a brown oil. The product was purified by preparative thin layer chromatography over silica gel (eluant chloroform/ethanol, 95:5) to give the title compound (0.89 g; 41.8%) as a solid; mp 49°-51° C.

reactant | 2-chloro-6-fluoroquinoxaline | 5.48 mmole, 1.0 g | ClC1=NC2=CC=C(C=C2N=C1)F | C8H4ClFN2
reactant | n-propyl 2-(2-fluoro-4-hydroxyphenoxy)propionate | 5.49 mmole, 1.33 g | FC1=C(OC(C(=O)OCCC)C)C=CC(=C1)O | C12H15FO4
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | n-Propyl 2-[2-fluoro-4-(6-fluoroquinoxalin-2-yloxy)-phenoxy]propionate | 0.89 g, 41.8% | FC1=C(OC(C(=O)OCCC)C)C=CC(=C1)OC1=NC2=CC=C(C=C2N=C1)F | C20H18F2N2O4
